US04997840
4-Methoxy-3-methyl-N-methylaniline (30.2 g) is added dropwise to a stirred solution of boron trichloride (26 g) in toluene (100 ml) cooled to 0 to 5°. Chloroacetonitrile (19.9 g) and then titanium tetrachloride (26.8 ml) are added and the mixture is heated under reflux for 6 hours. After cooling to ambient temperature, hydrochloric acid (2M, 500 ml) is added and the mixture then heated to 80° for 30 minutes. The mixture is cooled to ambient temperature, sodium hydroxide (2M) is added to pH 3 and the mixture then extracted with dichloromethane (3×300 ml). The combined extracts are washed with water (100 ml) and dried over magnesium sulphate. The solvent is removed by distillation and the residue purified to give the novel compound 2-chloro-5'-methoxy-4'-methyl-2'-(methylamino)acetophenone.

reactant | 4-Methoxy-3-methyl-N-methylaniline | 30.2 g | COC1=C(C=C(NC)C=C1)C | C9H13NO
reactant | boron trichloride | 26 g | B(Cl)(Cl)Cl | BCl3
reactant | Chloroacetonitrile | 19.9 g | ClCC#N | C2H2ClN
reactant | hydrochloric acid | 2M, 500 ml | Cl | ClH
reactant | sodium hydroxide | 2M | [OH-].[Na+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
catalyst | titanium tetrachloride | 26.8 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 2-chloro-5'-methoxy-4'-methyl-2'-(methylamino)acetophenone | ClCC(=O)C1=C(C=C(C(=C1)OC)C)NC | C11H14ClNO2
